US06130217
3-(2-Chlorophenyl)bicyclo[2.2.1]hept-5-en-2-ylamine
This material (LC-MS m/z 220 (MH+)) was prepared via the nitro derivative according to the procedure described in Preparation 92 but starting instead with 2-chloro-omega-nitrostyrene and cyclopentadiene.

reactant | 2-chloro-omega-nitrostyrene | C1=CC=C(C(=C1)/C=C/[N+](=O)[O-])Cl | C8H6ClNO2
reactant | cyclopentadiene | C1=CC=CC1 | C5H6
product | 3-(2-Chlorophenyl)bicyclo[2.2.1]hept-5-en-2-ylamine | ClC1=C(C=CC=C1)C1C(C2C=CC1C2)N | C13H14ClN
